* source 1-B
M_M2         N00951 N00760 0 0 Mbreakn           
V_V1         N01218 0 5V
M_M4         N00951 N00951 N01218 N01218 MbreakP           
V_V2         N00760 0  
+SIN 1 1 100 0 0 0
